US06881733B1
Alternate Synthesis of 4-chloro-5-fluoro-7-bromobenzofuran
A suspension of 49.2 gm (0.19 mole) 2-hydroxy-3-bromo-5-fluoro-6-chlorobenzaldehyde and 127 gm (0.29 mole) (bromomethyl)triphenylphosphonium bromide in 230 mL tetrahydrofuran was cooled to 0° C. under a nitrogen atmosphere. To this were added dropwise 330 mL (0.33 mole) potassium tert-butoxide (1M in tetrahydrofuran) over 3 hours. An additional 90 mL (0.09 mole) potassium tert-butoxide (1M in tetrahydrofuran) were then added to react remaining starting material. The reaction mixture was diluted with 700 mL of hexane and the resulting precipitate removed by filtration. The recovered solid was slurried in 300 mL hexane and filtered 4 times. The combined filtrates were washed with 2×500 mL water followed by 500 mL saturated aqueous sodium chloride. The remaining organics were dried over sodium sulfate and concentrated under reduced pressure to provide a residual solid. This solid was slurried and filtered with 4×300 mL diethyl ether to remove triphenylphosphine oxide. The filtrates were concentrated and the residue subjected to silica gel chromatography, eluting with hexane. Fractions containing product were combined and concentrated under reduced pressure to provide 40 gm (83%) of the title compound as a white solid.

reactant | 2-hydroxy-3-bromo-5-fluoro-6-chlorobenzaldehyde | 0.19 mole, 49.2 gm | OC1=C(C=O)C(=C(C=C1Br)F)Cl | C7H3BrClFO2
reactant | (bromomethyl)triphenylphosphonium bromide | 0.29 mole, 127 gm | [Br-].BrC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 0.33 mole, 1M, 330 mL | CC(C)([O-])C.[K+]
reactant | potassium tert-butoxide | 0.09 mole, 1M, 90 mL | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 230 mL | O1CCCC1 | C4H8O
solvent | hexane | 700 mL | CCCCCC | C6H14
product | 4-chloro-5-fluoro-7-bromobenzofuran | 40 gm, 83% | ClC1=C(C=C(C2=C1C=CO2)Br)F | C8H3BrClFO
